US04075203
Preparation of p-Nitrobenzyl 7-Phenoxyacetamido-3-methylenecepham-4-carboxylate-1-oxide (pilot plant scale in stainless steel).
To a thirty gallon stainless steel still were added 76 liters of toluene. The toluene was dried by distillative removal of about 19 liters of material. An additional 14 liters of toluene were removed leaving about 43 liters in the still. The toluene, under nitrogen, then was cooled to about 70° C., and 1.75 kg. of p-nitrobenzyl 6-phenoxyacetamido-2,2-dimethylpenam-3-carboxylate-1-oxide were added. Heat was added, and, when the temperature of the mixture reached about 85° C., 1,400 ml. of propylene oxide were added. Heating was continued, the mixture reaching 102° C. at reflux. A total of 700 grams of N-chlorophthalimide then was added in 87.5 gram portions at approximately 7 minute intervals. Prior to completion of the addition of the N-chlorophthalimide, 350 ml. of propylene oxide were added. Another 175 ml. of propylene oxide were added appproximately 1 hour after completion of N-chlorophthalimide addition. The mixture was refluxed at 100°-102° C. for 2.5 hours following the first addition of N-chlorophthalimide. The mixture, having a volume of 52.5 liters, then was cooled to about 61° C., and concentration of the mixture was begun, the volume of the material upon completion being about 38 liters. The mixture then was filtered into a 30 gallon glass-lined still containing a mixture of 875 ml. of stannic chloride and 13 liters of toluene pre-cooled to -2° C. The temperature rose to +14 C. and was cooled to0°-5° C. The mixture then was stirred overnight. The resulting red precipitate was filtered, and the solid was dissolved in a mixture of 8.75 liters of acetone and 17.5 liters of ethyl acetate. The solution was washed with 17.5 liters of water and then with 17.5 liters of brine. It was separated, concentrated to 15.5 liters, cooled to 0°-5° C., and stirred overnight. The resulting mixture then was filtered, and the collected solid was washed with 1.75 liters of ethyl acetate and dried at 45°-50° C. to obtain 389.6 grams (23.7%) of the title compound.

reactant | p-nitrobenzyl 6-phenoxyacetamido-2,2-dimethylpenam-3-carboxylate-1-oxide | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2=O)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H23N3O8S
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | N-chlorophthalimide | 700 grams | ClN1C(C=2C(C1=O)=CC=CC2)=O | C8H4ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 76 liters | C1(=CC=CC=C1)C | C7H8
product | p-Nitrobenzyl 7-Phenoxyacetamido-3-methylenecepham-4-carboxylate-1-oxide | 389.6 grams, 23.7% | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2=O)=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O8S
